US07259183B2
Preparation of [rac]-1H-Indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(4-chloro-phenyl)-2-hydroxy-ethyl]-amide
To a solution of 50 mg (0.31 mmol) of 1H-indole-7-carboxylic acid and 97 mg of TBTU (0.31 mmol) in 4 ml DMF, were added 0.27 ml (1.55 mmol) of N,N-diisopropylethyl amine. After stirring for 5 min at rt, 99 mg (0.31 mmol) of [rac]-(4-tert-butyl-benzyl)-[2-(4-chloro-phenyl)-2-hydroxy-ethyl]-amine were added. After stirring for 17 h at rt, the reaction mixture was diluted with 40 ml water and extracted with EtOAc (2×). The combined organic phases were washed with water and brine, dried with magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (8 g silica gel; heptane/EtOAc 2:1) to give 89 mg (61%) of a white solid. MS (ISP) 461.4 (M+H)+.

reactant | 1H-indole-7-carboxylic acid | 0.31 mmol, 50 mg | N1C=CC2=CC=CC(=C12)C(=O)O | C9H7NO2
reactant | TBTU | 0.31 mmol, 97 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethyl amine | 1.55 mmol, 0.27 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | [rac]-(4-tert-butyl-benzyl)-[2-(4-chloro-phenyl)-2-hydroxy-ethyl]-amine | 0.31 mmol, 99 mg | C(C)(C)(C)C1=CC=C(CNCC(O)C2=CC=C(C=C2)Cl)C=C1 | C19H24ClNO
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | water | 40 ml | O | H2O
product | [rac]-1H-Indole-7-carboxylic acid (4-tert-butyl-benzyl)-[2-(4-chloro-phenyl)-2-hydroxy-ethyl]-amide | 89 mg, 61% | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2C=CC=C3C=CNC23)CC(O)C2=CC=C(C=C2)Cl)C=C1 | C28H29ClN2O2
